US08293735B2
2-Chloro-6-[4-(3,3-difluoroazetidin-1-yl)-piperidin-1-ylmethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
Prepared according to the method used in the preparation of 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine using 4-(3,3-difluoroazetidin-1-yl)-piperidine in place of 7-methyl-2,7-diaza-spiro[3.5]nonane. The title compound was obtained as a white solid (115 mg, 74%).

reactant | 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1(C2)CCN(CC1)C)N1CCOCC1 | C19H26ClN5OS
reactant | 4-(3,3-difluoroazetidin-1-yl)-piperidine | FC1(CN(C1)C1CCNCC1)F | C8H14F2N2
product | 2-Chloro-6-[4-(3,3-difluoroazetidin-1-yl)-piperidin-1-ylmethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)N2CC(C2)(F)F)N2CCOCC2 | C19H24ClF2N5OS
